US09109057B2
The procedure Example 20 was followed in a 500 ml stainless autoclave equipped with a mechanical stirrer. After adding 200 ml of toluene, 11 ml of 1-octene, 1 ml of 1,7-octadiene and 5 ml MAO solution under ethylene gas, the 1 μmol of rac-Me2Si-[2-Me-4-Ph(ind)2ZrCl2 catalyst diluted in 3 ml toluene was then syringed into the rapidly stirring solution under ethylene pressure to initiate the polymerization. After 3 minutes of reaction at 60° C. under 110 psi pressure of ethylene gas, the polymer solution was quenched with methanol. The resulting product was washed with HCl/methanol (0.5M) and methanol each for 3 times, then vacuum-dried at 60° C. About 7.94 g of ethylene/1-octene/1,7-octadiene terpolymer was obtained with catalystic activity of 95.2 Kg(PE)/mmol·h. The gel content and absorption data were determined as the Example 20 and are shown in Table 5.

reactant | 1-octene | 11 ml | C=CCCCCCC | C8H16
reactant | 1,7-octadiene | 1 ml | C=CCCCCC=C | C8H14
reactant | ethylene | C=C | C2H4
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | ethylene/1-octene 1,7-octadiene | 7.94 g | C=C.C=CCCCCCC.C=CCCCCC=C | InChI=1S/C8H16.C8H14.C2H4/c2*1-3-5-7-8-6-4-2;1-2/h3H,1,4-8H2,2H3;3-4H,1-2,5-8H2;1-2H2
